US06506747B1
Synthesis of 1-{4-[N-(4-Cyanopyridin-2-yl)amino]phenyl}-3,5-bis(trifluoromethyl)pyrazole (Method D)
A mixture of 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole (0.36 g) and 2-chloro-4-cyanopyridine (0.14 g) in dioxane (1 mL) was heated at 125° C. in a sealed tube for 5 days. The mixture was diluted with ethyl acetate and washed with water. The organic phase was dried, filtered and evaporated. Chromatography of the residue over silica gel (methylene chloride to 2% ethanol/methylene chloride gradient gave the above-named compound (0.22 g) mp 152-153° C. NMR (CDCl3) 8.45 (1H, m), 7.86 (3H, m), 7.48 (2H, d), 7.20 (1H, br s), 7.07 (1H, s), 6.91 (1H, m).

reactant | 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | 0.36 g | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
reactant | 2-chloro-4-cyanopyridine | 0.14 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{4-[N-(4-Cyanopyridin-2-yl)amino]phenyl}-3,5-bis(trifluoromethyl)pyrazole | 0.22 g | C(#N)C1=CC(=NC=C1)NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C17H9F6N5
